US09416124B2
(1H-Pyrazol-4-ylmethylene)-(2,2,2-trifluoro-ethyl)-amine (1a1) (intermediate of Formula 1a when R1 is CF3 and Ar1 is 4-pyrazolyl)
To a solution of 2,2,2-Trifluoroethylamine hydrochloride (Sigma-Aldrich) (15.2 g, 113.2 mmol) in acetonitrile (36 mL) was added 3-pyrazole carboxaldehyde hydrochloride (which could be prepared as described in Traydakov, et. al., Synthetic Communications, 2011, 41, 2430-2434) (10 g, 75.75 mmol) followed by triethylamine (31.5 ml, 226.4 mmol) at 0° C.

reactant | 2,2,2-Trifluoroethylamine hydrochloride | 113.2 mmol, 15.2 g | Cl.FC(CN)(F)F
reactant | 3-pyrazole carboxaldehyde hydrochloride | 75.75 mmol, 10 g | Cl.N1N=C(C=C1)C=O
reactant | triethylamine | 226.4 mmol, 31.5 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 36 mL | C(C)#N | C2H3N
product | (1H-Pyrazol-4-ylmethylene)-(2,2,2-trifluoro-ethyl)-amine | N1N=CC(=C1)C=NCC(F)(F)F | C6H6F3N3
